US08530475B2
7-(9H-Fluoren-2-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-ene
7-(9H-Fluoren-2-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-ene-8,10-dione (310 mg, 0.94 mmol) in THF (4 mL) was placed in a μW tube. Dibal-H (4 mL, 4 mmol, [1M] in THF) was then added to the reaction mixture with venting under argon flow. When all H2 evolution was completed, the reaction mixture was heated to 130° C. for 900 sec. The reaction mixture was then diluted with a saturated Rochelle's solution (30 mL) and diethyl ether (30 mL) followed by stirring vigorously overnight. The layers were separated and the organic solution was dried with magnesium sulfate, filtered and the solvent removed by reduced pressure to yield the title compound as a residue.

reactant | 7-(9H-Fluoren-2-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-ene-8,10-dione | 0.94 mmol, 310 mg | C1=C(C=CC=2C3=CC=CC=C3CC12)N1C2CC=CCC(C1=O)NC2=O | C21H18N2O2
reactant | Dibal-H | 4 mmol, 1M, 4 mL | CC(C)C[Al]CC(C)C
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 7-(9H-Fluoren-2-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-ene | C1=C(C=CC=2C3=CC=CC=C3CC12)N1C2CC=CCC(C1)NC2 | C21H22N2
